US08623896B2
To a solution of 4-[5-(3,5-dichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-2-methyl-benzoic acid tert-butyl ester (Example I19) (74.14 g) in dichloromethane (750 ml) was added trifluoromethyl acetic acid (“TFA”) (148 ml). The reaction mixture was stirred at ambient temperature for 16 hours. Ethyl acetate was added and the mixture was washed with water, dried over sodium sulfate and concentrated. The residue was crystallized from ethyl acetate and heptane to give 4-[5-(3,5-dichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-2-methyl-benzoic acid (55.0 g). 1H-NMR (CDCl3, 400 MHz): 8.12 (d, 1H), 7.65-7.45 (m, 5H), 4.15 (d, 1H), 3.75 (d, 1H), 2.75 (s, 3H).

reactant | 4-[5-(3,5-dichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-2-methyl-benzoic acid tert-butyl ester | 74.14 g | C(C)(C)(C)OC(C1=C(C=C(C=C1)C1=NOC(C1)(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl)C)=O | C22H20Cl2F3NO3
reactant | trifluoromethyl acetic acid | 148 ml | FC(F)(F)CC(=O)O | C3H3F3O2
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 750 ml | ClCCl | CH2Cl2
product | 4-[5-(3,5-dichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-2-methyl-benzoic acid | 55.0 g | ClC=1C=C(C=C(C1)Cl)C1(CC(=NO1)C1=CC(=C(C(=O)O)C=C1)C)C(F)(F)F | C18H12Cl2F3NO3
